US05162322
5-[4-[4-(2-Ethoxyphenyl)-1-piperazinyl butyl]-3-(1-methylethyl)-2-oxazolidinone hydrochloride (1:2).
Following the procedure of Example 5, a mixture of 5-(4-chlorobutyl)-3-(1-methylethyl)-2-oxazolidinone (5.2 g, 0.0137 mol), 1-(2-ethoxyphenyl)-piperazine hydrochloride (5.76 g, 0.0237 mol) and potassium iodide (1.0 g) in N-butanol (200 mL) gave an oil. The oil was dissolved in absolute ethanol and acidified with ethanolic hydrogen chloride. Addition of ether and filtration gave a solid which was dried under high vacuum at 70° C. to give 6.62 g (60% yield), mp 199°-205° C.

reactant | 5-(4-chlorobutyl)-3-(1-methylethyl)-2-oxazolidinone | 0.0137 mol, 5.2 g | ClCCCCC1CN(C(O1)=O)C(C)C | C10H18ClNO2
reactant | 1-(2-ethoxyphenyl)-piperazine hydrochloride | 0.0237 mol, 5.76 g | Cl.C(C)OC1=C(C=CC=C1)N1CCNCC1
reactant | potassium iodide | 1.0 g | [I-].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 4-[4-(2-Ethoxyphenyl)-1-piperazinyl butyl]-3-(1-methylethyl)-2-oxazolidinone hydrochloride | 60% yield | Cl.C(C)OC1=C(C=CC=C1)CCCC(N1CCNCC1)C1N(C(OC1)=O)C(C)C | InChI=1S/C22H35N3O3.ClH/c1-4-27-21-11-6-5-8-18(21)9-7-10-19(24-14-12-23-13-15-24)20-16-28-22(26)25(20)17(2)3;/h5-6,8,11,17,19-20,23H,4,7,9-10,12-16H2,1-3H3;1H
